US06943183B2
1. (±)5-sec-Butoxymethyl-6-hydroxy-3,4-dihydro-2H-naphthalen-1-one.
According to step (a) in the method of example A, 5-Chloromethyl-6-hydroxy-3,4-dihydro-2H-naphthalen-1-one (0.211 g, 1.0 mmol) was combined with triethylamine (0.167 ml, 1.2 mmol) in (±)butan-2-ol (3 ml, Aldrich Chemical) to produce 159 mg of desired product as an orange oil. Low resolution mass spectrum (APCI) m/z 249 [M+H]+.

reactant | 5-Chloromethyl-6-hydroxy-3,4-dihydro-2H-naphthalen-1-one | 1.0 mmol, 0.211 g | ClCC1=C2CCCC(C2=CC=C1O)=O | C11H11ClO2
reactant | triethylamine | 1.2 mmol, 0.167 ml | C(C)N(CC)CC | C6H15N
reactant | (±)butan-2-ol | 3 ml | CC(CC)O | C4H10O
product | (±)5-sec-Butoxymethyl-6-hydroxy-3,4-dihydro-2H-naphthalen-1-one | 159 mg | C(C)(CC)OCC1=C2CCCC(C2=CC=C1O)=O | C15H20O3
